US06207862B1
(S)-2-benzylbutyrolactone (1 gram) was dissolved in 5 ml of absolute ethanol, followed by the addition of 0.5 gram of gaseous ammonia. The solution was kept in a stoppered flask, and the progress of the reaction was followed by thin layer chromatography (eluent dichloromethane/methanol 20:1). After the reaction was judged complete, the ethanol was evaporated and the resulting residue redissolved in ethyl acetate. Ammonia was removed by extraction with 1% HCl, and the ethyl acetate solution was dried over MgSO4, filtered, and rotary evaporated to leave 0.7 grams of (S)-2-benzylhydroxybutyramide.

reactant | (S)-2-benzylbutyrolactone | 1 gram | C(C1=CC=CC=C1)[C@@H]1C(=O)OCC1 | C11H12O2
reactant | ammonia | 0.5 gram | N | H3N
reactant | dichloromethane methanol | ClCCl.CO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (S)-2-benzylhydroxybutyramide | 0.7 grams | C(C1=CC=CC=C1)[C@](C(=O)N)(CC)O | C11H15NO2
